US07144881B2
Step A: 2-Bromo-1-fluoro-4-vinyl-benzene
To a suspension of Ph3PCH3Br (57 g) in THF (240 mL) at 0° C. was dropwise added n-BuLi (1.6 N, 100 mL). The resulting mixture was allowed to warm to room temperature and stirred for 1 h. After recooling to 0° C., a solution of 3-bromo-4-fluoro-benzaldehyde (20.3 g) in THF (20 mL) was added. The resulting mixture was allowed to warm to room temperature and stirred for 1 h. The reaction mixture was quenched with water, concentrated, and extracted with methylene chloride. The combined organic layers were dried over magnesium sulfate, concentrated under vacuum. The crude product was purified by flash chromatography eluting with 10% ethyl acetate in hexanes to give the title compound as an oil (18 g).

reactant | n-BuLi | 1.6 N, 100 mL | [Li]CCCC
reactant | 3-bromo-4-fluoro-benzaldehyde | 20.3 g | BrC=1C=C(C=O)C=CC1F | C7H4BrFO
solvent | THF | 240 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-Bromo-1-fluoro-4-vinyl-benzene | 18 g | BrC1=C(C=CC(=C1)C=C)F | C8H6BrF
